US08877739B2
Synthesis of 2-methoxy-3-(L-γ-glutamylamino)benzoic acid (Compound No. 27)
HATU, 84 mg (0.2 mmol), 30 mg (0.2 mmol) of HOAt, 61 mg (0.2 mmol) of Boc-Glu-OtBu hydrochloride, 0.084 ml (0.6 mmol) of triethylamine and 1 ml of dichloromethane were added to 36 mg (0.2 mmol) of methyl 2-methoxy-3-aminobenzoate. The mixture was stirred at room temperature overnight.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | 0.2 mmol, 30 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Boc-Glu-OtBu hydrochloride | 0.2 mmol, 61 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C.Cl
reactant | triethylamine | 0.6 mmol, 0.084 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 2-methoxy-3-aminobenzoate | 0.2 mmol, 36 mg | COC1=C(C(=O)OC)C=CC=C1N | C9H11NO3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-methoxy-3-(L-γ-glutamylamino)benzoic acid | COC1=C(C(=O)O)C=CC=C1NC(CC[C@H](N)C(=O)O)=O | C13H16N2O6
